US07160888B2
Synthesis of 3-Fluoro-7-[4-(4-naphthalen-1-yl-piperazin-1-yl)-butoxy]-1H-[1,8]naphthyridin-2-one
To a suspension of Dess-Martin periodinane (0.79 g, 1.86 mmol, 1.2 eq) in CH2Cl2 (20 mL) was added a solution of 3-fluoro-7-(4-hydroxy-butoxy)-1H-[1,8]naphthyridin-2-one (0.39 g, 1.5 mmol) in THF (6 mL)/DMSO (2 mL). The mixture was stirred at room temperature for 1.5 h. The reaction mixture was diluted with Et2O (100 mL) and quenched with aqueous NaHCO3 (20 mL) containing Na2S2O3 (1.66 g, 10.5 mmol, 7 eq). After extraction with Et2O (3×40 mL), the combined organic layer was washed with brine (20 mL), dried over Na2SO4 and concentrated to give the crude aldehyde as a pale yellow solid. To a solution of the aldehyde in 1,2-dichloroethane (20 mL) was added 1-naphthalen-1-yl-piperazine monohydrochloride (0.522 g, 2.1 mmol, 1.4 eq), Et3N (0.38 mL, 2.85 mmol, 1.9 eq) and NaBH(OAc)3 (0.445 g, 2.1 mmol, 1.4 eq). The mixture was stirred at room temperature for 1 h and quenched with water and saturated NaHCO3. After extraction with CH2Cl2 (3×50 mL), the combined organic layer was dried over Na2SO4 and concentrated. The residue was purified by column chromatography (3% MeOH/CH2Cl2) to give the title compound (430 mg, 62% in two steps). 1H NMR (400 MHz, δ ppm): 12.60 (br s, 1H), 8.10 (d, J=6.0 Hz, 1H), 8.00 (d, J=7.2 Hz, 1H), 7.85 (m, 2H), 7.60 (d, J=6.0 Hz, 1H), 7.50 (m, 2H), 7.40 (d, J=6.0 Hz, 1H), 7.10 (d, J=6.0 Hz, 1H), 6.75 (d, J=7.0 Hz, 1H), 4.35 (t, J=4.0 Hz, 2H), 3.00 (br s, 4H), 2.60 (br s, 4H), 2.40 (t, J=3.8 Hz, 2H), 1.80 (m, 2H), 1.60 (m, 2H); 19F NMR: −140 ppm; MS: 447 (M+H)+ (Exact Mass: 446.21).

reactant | Dess-Martin periodinane | 1.86 mmol, 0.79 g, 1.2 eq | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 3-fluoro-7-(4-hydroxy-butoxy)-1H-[1,8]naphthyridin-2-one | 1.5 mmol, 0.39 g | FC=1C(NC2=NC(=CC=C2C1)OCCCCO)=O | C12H13FN2O3
reactant | Na2S2O3 | 10.5 mmol, 1.66 g, 7 eq | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | 1-naphthalen-1-yl-piperazine monohydrochloride | 2.1 mmol, 0.522 g, 1.4 eq | Cl.C1(=CC=CC2=CC=CC=C12)N1CCNCC1
reactant | Et3N | 2.85 mmol, 0.38 mL, 1.9 eq | CCN(CC)CC | C6H15N
reactant | NaBH(OAc)3 | 2.1 mmol, 0.445 g, 1.4 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 3-Fluoro-7-[4-(4-naphthalen-1-yl-piperazin-1-yl)-butoxy]-1H-[1,8]naphthyridin-2-one | 430 mg, 62% | FC=1C(NC2=NC(=CC=C2C1)OCCCCN1CCN(CC1)C1=CC=CC2=CC=CC=C12)=O | C26H27FN4O2
